US05919783
5. Ethyl 3-(5-(1,2,4-triazol-1-yl)-2,3-dihydro-1H-pyrrolo[2,3-c]pyridin-3-yl)propionate
Ethyl 3-[1-tert-butyloxycarbonyl-5-(1,2,4-triazol-1-yl)pyrrolo[2,3-c]pyridin-3-yl]prop-2-enoate (0.29 g) was hydrogenated over palladium on carbon (10%, 0.435 g) in ethanol (50 mL) at 50 psi of hydrogen for 75 min. The catalyst was removed by filtration and the solvent evaporated in vacuo to give the title compound. (0.24 g) as a colourless solid. This was used without further purification in the next step.

reactant | Ethyl 3-[1-tert-butyloxycarbonyl-5-(1,2,4-triazol-1-yl)pyrrolo[2,3-c]pyridin-3-yl]prop-2-enoate | 0.29 g | C(C)(C)(C)OC(=O)N1C=C(C=2C1=CN=C(C2)N2N=CN=C2)C=CC(=O)OCC | C19H21N5O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.435 g | [Pd] | Pd
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | Ethyl 3-(5-(1,2,4-triazol-1-yl)-2,3-dihydro-1H-pyrrolo[2,3-c]pyridin-3-yl)propionate | N1(N=CN=C1)C=1C=C2C(=CN1)NCC2CCC(=O)OCC | C14H17N5O2
